US06384041B1
A mixture of 109 mg (0.228 mmol) of [[2-(methylthio)-5-(aminooxoacetyl)-6-ethyl-7-[(3-chlorophenyl)methyl]-7H-pyrrolo[2,3-d]pyrimidin-4-yl]oxy]acetic acid methyl ester and 10 mL of methanol was treated with 0.17 mL of 2 M sodium hydroxide and stirred at reflux for 3 hours. The reaction was cooled to ambient temperature and neutralized to pH 1 with 1 M HCl then concentrated to a solid. The solids were triturated with water and dried in vacuo to provide 99 mg (94%) of [[2-(methylthio)-5-(aminooxoacetyl)-6-ethyl-7-[(3-chlorophenyl)methyl]-7H-pyrrolo[2,3-d]pyrimidin-4-yl]oxy]acetic acid as a solid. nmr (300 MHz, dmso-d6) δ1.00 (t, 3H), 2.46 (s, 3H), 2.90 (q, 2H), 4.85 (s, 2H), 5.49 (s, 2H), 7.01 (m, 1H), 7.32 (m, 3H), 7.60 (s, 1H), 8.00 (s, 1H)

reactant | [[2-(methylthio)-5-(aminooxoacetyl)-6-ethyl-7-[(3-chlorophenyl)methyl]-7H-pyrrolo[2,3-d]pyrimidin-4-yl]oxy]acetic acid methyl ester | 0.228 mmol, 109 mg | COC(COC=1C2=C(N=C(N1)SC)N(C(=C2C(C(=O)N)=O)CC)CC2=CC(=CC=C2)Cl)=O | C21H21ClN4O5S
reactant | sodium hydroxide | 2 M, 0.17 mL | [OH-].[Na+]
reactant | HCl | 1 M | Cl | ClH
solvent | methanol | 10 mL | CO | CH4O
product | [[2-(methylthio)-5-(aminooxoacetyl)-6-ethyl-7-[(3-chlorophenyl)methyl]-7H-pyrrolo[2,3-d]pyrimidin-4-yl]oxy]acetic acid | 99 mg, 94% | CSC=1N=C(C2=C(N1)N(C(=C2C(C(=O)N)=O)CC)CC2=CC(=CC=C2)Cl)OCC(=O)O | C20H19ClN4O5S
